US07550474B2
a. Methanesulfonic acid 2,2-difluoro-2-(6-methyl-pyridin-2-yl)-ethyl Ester
To a solution of 2,2-difluoro-2-(6-methyl-pyridin-2-yl)-ethanol (2.82 g, 16.3 mmol) (prepared essentially as described in Example 1f) in anhydrous THF (60 mL) at 0° C. was added methanesulfonyl chloride (1.52 mL, 19.6 mmol), followed by triethylamine (4.54 mL, 32.6 mmol). After 2.5 hours, the reaction mixture was quenched with ice/water. The resulting mixture was extracted with ethyl acetate. The combined organic layers were dried over Na2SO4 and evaporated to afford the desired product as a clear oil (3.7 g, 97%). 1H NMR (CDCl3) δ 7.73 (t, J=7.77 Hz, 1H), 7.51 (d, J=7.75 Hz, 1H), 7.28 (d, J=8.04 Hz, 1H), 4.89 (t, J=12.88 Hz, 2H), 3.07 (s, 3H), 2.58 (s, 3H); LC/MS (m/z) [M+1] 252.2 (calculated for C9H12F2NO3S, 252.0).

reactant | 2,2-difluoro-2-(6-methyl-pyridin-2-yl)-ethanol | 16.3 mmol, 2.82 g | FC(CO)(C1=NC(=CC=C1)C)F | C8H9F2NO
reactant | methanesulfonyl chloride | 19.6 mmol, 1.52 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 32.6 mmol, 4.54 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | Methanesulfonic acid 2,2-difluoro-2-(6-methyl-pyridin-2-yl)-ethyl Ester | 3.7 g, 97% | FC(COS(=O)(=O)C)(C1=NC(=CC=C1)C)F | C9H11F2NO3S
